US05382593
Step A: N-(methoxy)-phenylacetamide
Introduce into a round-bottomed flask 6.8 g (50 mmol) of phenylacetic acid and 4.6 g (55 mmol) of methoxylamine hydrochloride, 5.55 g (55 mmol) of triethylamine and finally 10.83 g (52.5 mmol) of N,N-dicyclohexylcarbodiimide. Dissolve in 150 cm3 of dichloromethane. Stir for 16 hours at room temperature. Remove the precipitate by means of filtration and wash it with dichloromethane. Treat the filtrate with 100 cm3 of 3% HCl, then with 100 cm3 of water and finally with 100 cm3 of 5% NaHCO3.

reactant | phenylacetic acid | 50 mmol, 6.8 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | methoxylamine hydrochloride | 55 mmol, 4.6 g | Cl.O(C)N
reactant | triethylamine | 55 mmol, 5.55 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | N-(methoxy)-phenylacetamide | CONC(CC1=CC=CC=C1)=O | C9H11NO2
